US05008263
(a) 4-(4-Acetylphenyl)amino-3-nitropyridine hydrochloride
A solution of 4-chloro-3-nitropyridine hydrochloride (9.75 g, 50 mmol) in ethanol (40 ml) was added to a slurry of p-aminoacetophenone (6.76 g, 50 ml) in ethanol (25 ml), and the mixture was stirred at room temperature overnight. The mixture was chilled in ice, and the yellow solid filtered off and dried in vacuo. Yield 10.1 g (69%), m.p. 197°-200° C.

reactant | 4-chloro-3-nitropyridine hydrochloride | 50 mmol, 9.75 g | Cl.ClC1=C(C=NC=C1)[N+](=O)[O-]
reactant | p-aminoacetophenone | 50 ml, 6.76 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(4-Acetylphenyl)amino-3-nitropyridine hydrochloride | Cl.C(C)(=O)C1=CC=C(C=C1)NC1=C(C=NC=C1)[N+](=O)[O-] | InChI=1S/C13H11N3O3.ClH/c1-9(17)10-2-4-11(5-3-10)15-12-6-7-14-8-13(12)16(18)19;/h2-8H,1H3,(H,14,15);1H
